US08664216B2
Formylhydrazine (10.7 g, 160 mmol) was added over a period of 4 hours to a solution of 7-chloro-2-thioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester (10.0 g, 32.0 mmol) in dioxane (200 ml) at 90° C. The reaction mixture was stirred at 90° C. overnight, then evaporated. The residue was purified by chromatography (300 g silica gel, heptane: ethyl acetate, 8:2 to 0:1) to yield 7.71 g (75%) 8-chloro-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester as white solid. MS m/e: 379 ([M+CH3COO−])

reactant | Formylhydrazine | 160 mmol, 10.7 g | C(=O)NN | CH4N2O
reactant | 7-chloro-2-thioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester | 32.0 mmol, 10.0 g | C(C)(C)(C)OC(=O)N1CC(NC2=C(C1)C=C(C=C2)Cl)=S | C14H17ClN2O2S
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 8-chloro-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester | 7.71 g, 75% | C(C)(C)(C)OC(=O)N1CC2=C(N3C=NN=C3C1)C=CC(=C2)Cl | C15H17ClN4O2
